US08008481B2
To a mixture of 4-chloro-2-methanesulfonyl-pyrimidine (2.54 g, 13.2 mmol) in DME (20 mL) was added a mixture of 7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamine (Example #F.8.1, 1.95 g, 7.35 mmol) and Et3N (1.43 mL, 10.3 mmol) in DME (160 mL). The reaction mixture was stirred at room temperature for about 16 hours then filtered, then filtrate was adsorbed onto alumina. The mixture was purified by flash column chromatography over alumina using CH2Cl2/MeOH (99:1) as an eluent to yield the initial crop of product. A second crop was obtained by triturating the alumina in CH2Cl2/MeOH (8:2) and combined with the first to afford 7-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-(2-methanesulfonyl-pyrimidin-4-yl)-amine (1.09 g, 36% yield): LC/MS (method e) Rt 1.8 min; m/z (ESI−): (M−H)+ 419.9.

reactant | 4-chloro-2-methanesulfonyl-pyrimidine | 13.2 mmol, 2.54 g | ClC1=NC(=NC=C1)S(=O)(=O)C | C5H5ClN2O2S
reactant | 7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamine | 7.35 mmol, 1.95 g | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)N)C=CC=C2 | C15H11N3S
reactant | Et3N | 10.3 mmol, 1.43 mL | CCN(CC)CC | C6H15N
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | DME | 160 mL | COCCOC | C4H10O2
product | (2-methanesulfonyl-pyrimidin-4-yl)-amine | 1.09 g, 36% yield | CS(=O)(=O)C1=NC=CC(=N1)N | C5H7N3O2S
